US07067658B2
To a 1-chloro-3,4-difluorobenzene (25 g, 0.17 mol) cooled to 0° C. was added fuming nitric acid (50 mL) dropwise over 30 min. The orange solution was warmed to room temperature and stirred for 2 h. The solution was poured slowly over ice and the resultant mixture extracted with diethyl ether. The diethyl ether layers were washed with brine, dried (Na2SO4), filtered and concentrated in vacuo to give 26 g (80%) of 1-chloro-4,5-difluoro-2-nitro-benzene: Crude 1H NMR (400 MHz, CDCl3): δ 7.88 (dd, J=9.3, 7.6 Hz, 1H), 7.43 (dd, J=9.3, 7.1 Hz, 1H). The crude material was pure enough to carry on to the next step.

reactant | 1-chloro-3,4-difluorobenzene | 0.17 mol, 25 g | ClC1=CC(=C(C=C1)F)F | C6H3ClF2
reactant | nitric acid | 50 mL | [N+](=O)(O)[O-] | HNO3
product | 1-chloro-4,5-difluoro-2-nitro-benzene | 26 g, 80% | ClC1=C(C=C(C(=C1)F)F)[N+](=O)[O-] | C6H2ClF2NO2
